US08242104B2
A mixture of 9-bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylaminomethylideneamide (1.27 g, 3.5 mmol), isopropylhydrazine hydrochloride (0.48 g, 4.37 mmol) and glacial acetic acid (6 mL) was heated at 110° C. for 6.5 h, then cooled and concentrated in vacuo. The resultant residue was dissolved in aqueous sodium bicarbonate and DCM and the phases were separated. The aqueous phase was extracted several times with DCM, the combined organic extracts dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 30 to 70% ethyl acetate in cyclohexane) to give 9-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene (0.99 g, 76%). LCMS: RT=5.07 min, M+H+=374/376. 1H NMR δ (ppm) (CDCl3): 8.07 (1H, d, J=2.41 Hz), 7.96 (1H, s), 7.39 (1H, dd, J=8.63, 2.43 Hz), 7.08 (1H, d, J=8.63 Hz), 6.91 (1H, s), 5.73-5.65 (1H, m), 4.53 (2H, t, J=5.91 Hz), 3.18 (2H, t, J=5.91 Hz), 1.60 (6H, d, J=6.62 Hz)

reactant | 9-bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylaminomethylideneamide | 3.5 mmol, 1.27 g | CN(C=NC(=O)C=1C=C2CCOC3=C(N2N1)C=C(C=C3)Br)C | C15H15BrN4O2
reactant | isopropylhydrazine hydrochloride | 4.37 mmol, 0.48 g | Cl.C(C)(C)NN
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 9-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene | 0.99 g, 76% | BrC=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)C(C)C)C1 | C16H16BrN5O
